US04652563
To a flask charged with redistilled dimethylsulphoxide (100 ml) and sodium hydride (50% dispersion, 4.28 g), at 60°-65° C. was added 2-(4-benzyloxy-3-methylphenyl)ethanol (18.0 g) followed by the dropwise addition of cyclopropylmethyl bromide (12.04 g). The reaction mixture was stirred at about 75° C. for 48 hours, poured on to ice-water (1000 ml) and extracted with vigorous stirring into diethyl ether (1000 ml). The ether layer was dried (MgSO4) and evaporated under reduced pressure to afford an oily residue. This residue was chromatographed on preparative high pressure liquid chromatography using petroleum ether (40°-60°) and petroleum ether/diethyl ether (5:1) as eluants. The desired fractions were collected and evaporated under reduced pressure to give 1-benzyloxy-2-methyl-4-[2-(cyclopropylmethoxy)ethyl]-benzene (13.0 g) as an oil.

reactant | sodium hydride | 4.28 g | [H-].[Na+]
reactant | 2-(4-benzyloxy-3-methylphenyl)ethanol | 18.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCO)C | C16H18O2
reactant | cyclopropylmethyl bromide | 12.04 g | C1(CC1)CBr | C4H7Br
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-benzyloxy-2-methyl-4-[2-(cyclopropylmethoxy)ethyl]-benzene | 13.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCOCC1CC1)C | C20H24O2
